US03968131
90 parts of 2,2-dimethyl-1,3-hexanediol, 27.3 parts of 1-amino-4-hydroxy-2-chloroanthraquinone, 45 parts of N-methylpyrrolidone, 9.4 parts of phenol and 12 parts of potassium carbonate are heated for 5 hours at 130°C and 8 hours at 140°C under nitrogen. When cold, the mixture is diluted with 140 parts of methanol and filtered. The filtrate is diluted with water. 21 parts of 1-amino-2-(2',2'-dimethyl-3'-hydroxyhexoxy)-4-hydroxyanthraquinone are obtained.

reactant | 2,2-dimethyl-1,3-hexanediol | CC(CO)(C(CCC)O)C | C8H18O2
reactant | 1-amino-4-hydroxy-2-chloroanthraquinone | NC1=C(C=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)O)Cl | C14H8ClNO3
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | CO | CH4O
solvent | N-methylpyrrolidone | CN1C(CCC1)=O | C5H9NO
product | 1-amino-2-(2',2'-dimethyl-3'-hydroxyhexoxy)-4-hydroxyanthraquinone | NC1=C(C=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)O)OCC(C(CCC)O)(C)C | C22H25NO5
